US05938973
(2) Preparation of 4-acetoxy-2-fluoro-1-(1-ethylpropyloxycabonyl)benzene
Thionyl chloride in an amount of 60 ml was added to 11.9 g (0.06 mol) of 4-acetoxy-2-fluorobenzoic acid, and the mixture was allowed to react under reflux for 7 hours. Then, excessive thionyl chloride was distilled off, and then 10 ml of pyridine and 3.5 g (0.0420 mol) of 3-pentanol were dropwise added. After the dropwise addition, the mixture was stirred at room temperature over 1 day and night, and then diluted with 200 ml of ether. An organic layer was consecutively washed with diluted hydrochloric acid, with a 1N sodium hydroxide aqueous solution and with water, and dried over magnesium sulfate. The solvent was distilled off, and the resultant crude end product was purified by silica gel column chromatography using hexane/ethyl acetate as a solvent to give 10.7 g (yield 90%) of the end product.

reactant | Thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 4-acetoxy-2-fluorobenzoic acid | 0.06 mol, 11.9 g | C(C)(=O)OC1=CC(=C(C(=O)O)C=C1)F | C9H7FO4
reactant | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
reactant | 3-pentanol | 0.0420 mol, 3.5 g | CCC(CC)O | C5H12O
solvent | ether | 200 ml | CCOCC | C4H10O
product | 4-acetoxy-2-fluoro-1-(1-ethylpropyloxycabonyl)benzene | 10.7 g, yield 90% | C(C)(=O)OC1=CC(=C(C=C1)C(=O)OC(CC)CC)F | C14H17FO4
